US09227971B2
Synthesis of tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate
A mixture of tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate (12.2 g, 20.3 mmol) and 10% Pd/C (2.1 g) in EtOAc (175 ml) was stirred at 45° C. under hydrogen (balloon pressure) for 16 hours. After filtration and concentration, the crude mixture of two isomers was purified by gradient column chromatography on silica eluting with EtOAc/Hexanes (0-35%) to give the slightly impure “endo” product (6.24 g, Rf=0.6 in 25% EtOAc/Hexanes) and the “exo” product (5.44 g, Rf=0.5 in 25% EtOAc/Hexanes) which was used in the following reaction sequences.

reactant | tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate | 20.3 mmol, 12.2 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C=2CC1CCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H51N5O4Si2
solvent | EtOAc | 175 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 2.1 g | [Pd] | Pd
product | tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]octane-8-carboxylate | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C2CC1CCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H53N5O4Si2
